US05006515
Diethyl 3-tert.butyl-2-isoxazolin-5-ylphosphonate
The procedure is analogous to that of Example 25 using 15.2 g (0.15 mol) of pivalaldoxime, 22.0 g (0.165 mol) of N-chlorosuccinimide, 0.5 ml of pyridine, 27.1 g (0.165 mol) of diethyl vinylphosphonate and 22.9 ml (0.165 mol) of triethylamine in dichloromethane. The product is obtained as an oil after the usual working up.

reactant | pivalaldoxime | 0.15 mol, 15.2 g | C(C(C)(C)C)=NO | C5H11NO
reactant | N-chlorosuccinimide | 0.165 mol, 22.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | diethyl vinylphosphonate | 0.165 mol, 27.1 g | C(=C)P(OCC)(OCC)=O | C6H13O3P
reactant | triethylamine | 0.165 mol, 22.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | Diethyl 3-tert.butyl-2-isoxazolin-5-ylphosphonate | C(C)(C)(C)C1=NOC(C1)P(OCC)(OCC)=O | C11H22NO4P
